US05955492
a) ethyl 5-benzyloxy-1-(2-chloro-4,5-methylenedioxybenzyl)indole-2-carboxylate
To a stirring suspension of sodium hydride (2.03grams (hereinafter "g"), (60% in mineral oil), 50.8 millimoles (hereinafter "mmol")) in DMF (100 milliliters (hereinafter "mL")) was added ethyl 5-benzyloxyindole-2-carboxylate (10.0 g, 33.9 mmol). After 10 minutes (hereinafter "min"), 6-chloropiperonyl chloride (10.4 g, 50.8 mmol) was added. After 1 hour, the mixture was partitioned between water and ethyl acetate. The organic layer was washed with water and saturated brine, dried (MgSO4), filtered and concentrated to leave an oily pale yellow solid. The solid was recrystallized from ethanol to provide the title compound as a white solid (7.8 g, 50%). 1HNMR (400 MHz, CDCl3) d 7.49-7.33 (m, 6H), 7.19-7.08 (m, 3H), 6.87 (s, 1H), 5.86 (s, 2H), 5.78 (s, 1H), 5.77 (s, 2H), 5.11 (s, 2H), 4.33 (q, 2H), 1.36 (t, 3H).

reactant | sodium hydride | 50.8 millimoles, 2.03grams | [H-].[Na+]
reactant | ethyl 5-benzyloxyindole-2-carboxylate | 33.9 mmol, 10.0 g | C(C1=CC=CC=C1)OC=1C=C2C=C(NC2=CC1)C(=O)OCC | C18H17NO3
reactant | 6-chloropiperonyl chloride | 50.8 mmol, 10.4 g | C1OC2=C(O1)C=C(C(=C2)CCl)Cl | C8H6Cl2O2
solvent | DMF | 100 milliliters | CN(C)C=O | C3H7NO
product | ethyl 5-benzyloxy-1-(2-chloro-4,5-methylenedioxybenzyl)indole-2-carboxylate | 7.8 g, 50% | C(C1=CC=CC=C1)OC=1C=C2C=C(N(C2=CC1)CC1=C(C=C2C(=C1)OCO2)Cl)C(=O)OCC | C26H22ClNO5
